US08871361B2
2-(3-bromophenyl)-1-phenyl-1H-imidazole (5.7 g, 19.05 mmol), aniline (0.85 g, 9.13 mmol), sodium tert-butoxide (2.55 g, 26.6 mmol), Pd2dba3 (0.167 g, 0.183 mmol) and 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl (S-Phos) (0.299 g, 0.730 mmol) were charged into the reaction flask with 150 mL of m-xylenes. This mixture was heated at reflux for 1 day. The reaction mixture was diluted with 100 mL of water then was filtered through a pad of Celite®. The m-xylene layer was separated and dried over magnesium sulfate. The organics were filtered and stripped under vacuum. The crude residue was passed through a silica gel column using 10-30% acetone/DCM yielding N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)aniline (1.72 g, 5.5 mmol, 60.6% yield).

reactant | 2-(3-bromophenyl)-1-phenyl-1H-imidazole | 19.05 mmol, 5.7 g | BrC=1C=C(C=CC1)C=1N(C=CN1)C1=CC=CC=C1 | C15H11BrN2
reactant | aniline | 9.13 mmol, 0.85 g | NC1=CC=CC=C1 | C6H7N
reactant | sodium tert-butoxide | 26.6 mmol, 2.55 g | CC(C)([O-])C.[Na+]
reactant | 2-dicyclohexylphosphino-2′,6′-dimethoxybiphenyl | 0.730 mmol, 0.299 g | C1(CCCCC1)P(C1=C(C=CC=C1)C1=C(C=CC=C1OC)OC)C1CCCCC1 | C26H35O2P
solvent | water | 100 mL | O | H2O
catalyst | Pd2dba3 | 0.183 mmol, 0.167 g | C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.C=1C=CC(=CC1)/C=C/C(=O)/C=C/C2=CC=CC=C2.[Pd].[Pd]
product | N-phenyl-3-(1-phenyl-1H-imidazol-2-yl)aniline | 5.5 mmol, 1.72 g, 60.6% yield | C1(=CC=CC=C1)NC1=CC(=CC=C1)C=1N(C=CN1)C1=CC=CC=C1 | C21H17N3
